US07208527B2
2,2-Bis-(4-fluoro-phenyl)-3-methyl-butyramide (Compound 19)
2,2-Bis-(4-fluoro-phenyl)-3-methyl-butyronitrile (2.21 g) was suspended in acetic acid (2 ml) and conc. sulphuric acid (2 ml) and heated to 130° C. for 1.5 hrs. The reaction mixture was poured onto ice/water and the pH adjusted to 9 with aq. ammonium hydroxide. The mixture was extracted with dichloromethane (3×), washed with water (2×) and brine, dried (MgSO4), filtered and concentrated. The product was taken up in dichloromethane and triturated with cold hexane to precipitate the title compound (50%; M.p. 142.3–147.0° C.).

reactant | 2,2-Bis-(4-fluoro-phenyl)-3-methyl-butyronitrile | 2.21 g | FC1=CC=C(C=C1)C(C#N)(C(C)C)C1=CC=C(C=C1)F | C17H15F2N
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2,2-Bis-(4-fluoro-phenyl)-3-methyl-butyramide | FC1=CC=C(C=C1)C(C(=O)N)(C(C)C)C1=CC=C(C=C1)F | C17H17F2NO
